US08461185B2
Step A: 3-bromo-5-[(5S)-5-(2-pyridinyl)-4,5-dihydro-3-isoxazolyl]benzoic acid
To a solution of tert-butyl 3-bromo-5-[(5S)-5-(2-pyridinyl)-4,5-dihydro-3-isoxazolyl]benzoate (0.530 g, 1.31 mmol) in dioxane (6.5 mL) was added hydrogen chloride (4M in dioxane, 1.3 mL, 5.26 mmol). The reaction mixture was stirred at 50° C. for 2 h. Two drops of concentrated hydrogen chloride (12.1 N) were added. The reaction mixture was stirred at 50° C. for 2 d. The mixture was concentrated to dryness to give the hydrochloride salt of the title compound which was used directly in Step B (0.476 g). MS 346.9 (M+1).

reactant | tert-butyl 3-bromo-5-[(5S)-5-(2-pyridinyl)-4,5-dihydro-3-isoxazolyl]benzoate | 1.31 mmol, 0.530 g | BrC=1C=C(C(=O)OC(C)(C)C)C=C(C1)C1=NO[C@@H](C1)C1=NC=CC=C1 | C19H19BrN2O3
reactant | hydrogen chloride | 5.26 mmol, 4M, 1.3 mL | Cl | ClH
solvent | dioxane | 6.5 mL | O1CCOCC1 | C4H8O2
catalyst | hydrogen chloride | 12.1 N, Two drops | Cl | ClH
product | 3-bromo-5-[(5S)-5-(2-pyridinyl)-4,5-dihydro-3-isoxazolyl]benzoic acid | BrC=1C=C(C(=O)O)C=C(C1)C1=NO[C@@H](C1)C1=NC=CC=C1 | C15H11BrN2O3
